US07807709B2
b. 4-Formyl-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester
A mixture of 4-formyl-3-hydroxybenzoic acid (1.5 g, 8.8 mmol), 4-methyl-benzenesulfinic acid 3-methoxy-propyl ester (4.5 g, 18.4 mmol), diisopropylethylamine (3.4 mL, 19.3 mmol) and Nal (2.63 g, 17.5 mmol) in DMF (20 mL) is stirred at 80° C. for 60 h and at 130° C. for another 5 h. The solvent is partially removed under reduced pressure, water is added and the mixture is extracted with ethyl acetate. Washing (brine) and drying (Na2SO4) of the combined organic extracts, filtration and evaporation of the solvent affords the crude product. The desired product is obtained by flash chromatography on silica gel (eluent: c-hexane/AcOEt 3:1). MS (LC-MS): 311.1 [M+H]+; tR (Zorbax SB C18 column, 10-95% CH3CN/H2O/0.8 min, 95% CH3CN/H2O, 0.7 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 1.20 min.

reactant | 4-formyl-3-hydroxybenzoic acid | 8.8 mmol, 1.5 g | C(=O)C1=C(C=C(C(=O)O)C=C1)O | C8H6O4
reactant | 4-methyl-benzenesulfinic acid 3-methoxy-propyl ester | 18.4 mmol, 4.5 g | COCCCOS(=O)C1=CC=C(C=C1)C | C11H16O3S
reactant | diisopropylethylamine | 19.3 mmol, 3.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Nal | 17.5 mmol, 2.63 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Formyl-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester | COCCCOC(C1=CC(=C(C=C1)C=O)OCCCOC)=O | C16H22O6
